Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ pmhx CAD STEMI ___ s/p DES to ___ @ ___, gout, HFrEF (45
-> 50% on TTE), Grave's s/p RAI on levothyroxine presenting with
chest pain.

Patient reports feeling well since his DES. He was recently
treated for lyme and finished his course of doxycycline a couple
weeks ago. He has had some increasing joint pains and gout
activity for which he was prescribed allopurinol. He has not
taken his colchicine since ___ (was prescribed previously for a
gout flare). 

On day of presentation 1500 after a meeting at work he developed
central substernal chest pain at rest. Non-radiating. No
associated symptoms. Felt similar to prior STEMI.

Non-pleuritic. However, it improves with sitting up, worsens 
when
laying flat.  

He takes Brilinta and aspirin in the morning. Has never missed a
dose. He received 4 baby aspirin by EMS prior to arrival. 

The pain has persisted throughout the day. No abdominal pain, 
leg
pain, fever, chills, cough. 

- In the ED, initial vitals were:
98.9, 77, 115/79, 16, 99% RA

- Exam was notable for:
No marked abnormalities on exam

- Labs were notable for:
Neg trop x2
No leukocytosis

- Studies were notable for:
Clean CXR

- The patient was given:
Nitro SL and morphine without any significant change in symptoms

On arrival to the floor, he gives the above history.

He also endorses longstanding issues with severe GERD.

 
Past Medical History:
CAD c/b STEMI ___ s/p ___
HFrEF EF 45% recovered to 50%
Gout
Grave's s/p RAI on levothyroxine
 
Social History:
___
Family History:
Strong fmhx CAD; father
 
Physical ___:
ADMISSION PHYSICAL EXAM:
========================
VITALS:
___ 0039 Temp: 98.1 PO BP: 132/81 R Sitting HR: 67 RR: 18 
O2
sat: 98% O2 delivery: Ra deceased lung ca age ___

GEN:   well appearing, comfortable, NAD
HEENT: MMM
CV:    RRR nl s1/s2 no mrg
PULM:  CTA b/l 
GI:    S/ND/NT
EXT:   WWP, non-edematous

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 923)
    Temp: 98.0 (Tm 98.1), BP: 119/72 (117-132/69-81), HR: 68
(67-73), RR: 17 (___), O2 sat: 97% (97-98), O2 delivery: RA,
Wt: 165.12 lb/74.9 kg 
Fluid Balance (last updated ___ @ 919)
  Last 8 hours  Total cumulative -330ml
    IN: Total 120ml, PO Amt 120ml
    OUT:  Total 450ml, Urine Amt 450ml
  Last 24 hours  Total cumulative -210ml
    IN: Total 240ml, PO Amt 240ml
    OUT:  Total 450ml, Urine Amt 450ml

GENERAL: Lying in bed. Speaking to me in no acute distress. 
HEENT: NCAT
NECK: No JVD.
CARDIAC: S1/S2, regular, no obvious murmurs.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
EXTREMITIES: No lower extremity edema. His extremities are warm. 

SKIN: Warm. Dry. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 07:10PM BLOOD WBC-9.9 RBC-4.61 Hgb-13.8 Hct-42.4 MCV-92 
MCH-29.9 MCHC-32.5 RDW-13.9 RDWSD-47.1* Plt ___
___ 07:10PM BLOOD Glucose-81 UreaN-22* Creat-1.2 Na-141 
K-4.2 Cl-101 HCO3-28 AnGap-12
___ 03:35PM BLOOD ALT-66* AST-48*

DISCHARGE LABS
==============
___ 06:49AM BLOOD WBC-8.7 RBC-4.50* Hgb-13.7 Hct-41.6 
MCV-92 MCH-30.4 MCHC-32.9 RDW-13.8 RDWSD-46.9* Plt ___
___ 06:49AM BLOOD Glucose-88 UreaN-20 Creat-1.1 Na-140 
K-4.2 Cl-101 HCO3-24 AnGap-15
___ 06:49AM BLOOD ALT-71* AST-54* LD(LDH)-212 AlkPhos-75 
TotBili-0.9

CARDIAC MARKERS
===============
___ 06:49AM BLOOD CK-MB-1 cTropnT-<0.01
___ 11:44PM BLOOD cTropnT-<0.01
___ 07:10PM BLOOD cTropnT-<0.01
 
Brief Hospital Course:
=================
SUMMARY STATEMENT
=================
___ pmhx CAD STEMI ___ s/p DES to ___ @ ___, gout, HFrEF (45 
-> 50% on TTE), Grave's s/p RAI on levothyroxine presenting with 
chest pain. The pain was thought to be atypical for angina and a 
TTE only showed a mild wall motion abnormality consistent with 
his prior infarction. His pain had resolved by discharge.

====================
ACUTE/ACTIVE ISSUES:
====================
# Chest pain
CAD/ACS vs pericarditis (esp with recurrent gout and recent lyme 
infxn though admittedly treated) vs musculoskeletal vs. GI pain. 
PR interval only mildly prolonged from baseline, otherwise EKG 
not markedly changed. Voltage reasonable. Trops were negative 
x3. Acute phase markers not highly elevated. No effusion on TTE. 
Overall evaluation not concerning for pericarditis, and it is 
likely that is pain is musculoskeletal in nature.
- Trial of maalox
- ___, tricagrelor

# CAD, STEMI s/p ___ ___
We increased his atorvastatin from 40mg to 80mg as an 
outpatient. Due to the transaminases we switched the 
atorvastatin 80mg to ___ 20mg QD.
- Home ___
- Home ticagrelor
- ___ 20mg QD

# HFrEF EF recovered to 50%
- Home lisinopril
- Home metop

# Transaminitis
Previously thought to be related to statin so dose reduced to 
40mg. Notably not a significant improvement on lower dose of 
statin. RUQUS negative for hepatic steatosis although the study 
was limited.
- hepatitis b serologies show non-immune, non-exposed status
- Switched atorvastatin 80mg to ___ 20mg QD

# Gout
- Uric acid - 8.8
- Home allopurinol
- Initiate colchicine recently prescribed by PCP (but not yet 
initiated by patient at home).

# Graves s/p RAI
- TSH 0.08 -> Asx at this time, will f/u as outpt
- home levothyroxine

===================
TRANSITIONAL ISSUES
===================
[ ] Consider repeat TSH as an outpatient as his TSH was found to 
be 0.08. He did not endorse symptoms of hyperthyroidism.

[ ] We switched his atorvastatin 40mg to ___ 20mg QD 
given the elevation in LFTs; please trend his LFTs on this new 
medication as he has a mild transaminitis.

[ ] We started him on colchicine [prescribed as an outpatient] 
as he was recently started on allopurinol. Please follow up 
regarding sxs related to his gout after tx.

[ ] Found to be non-immune to Hep B, consider vaccination if 
indicated.

[ ] Please consider a stress echo as an outpatient

Discharge Weight: 165.12
Discharge Creatinine: 1.1
Discharge Diuretic: None

- New Meds:
Started colchicine 0.6mg [prescribed as outpt]
Started ___ 20mg QD
- Stopped/Held Meds: Stopped atorvastatin 80mg QD
- Changed Meds: None
- Post-Discharge Follow-up Labs Needed: Please trend LFTs
- Incidental Findings: Elevated LFTs
- Code Status: Full
- Contact Information: Wife ___ (Home)

Discharge time 25 min
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. PredniSONE 60 mg PO ONCE:PRN gout flare  
3. Allopurinol ___ mg PO DAILY 
4. Metoprolol Succinate XL 12.5 mg PO DAILY 
5. Atorvastatin 40 mg PO QPM 
6. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN CP 
7. diclofenac sodium 1 % topical TID:PRN arthritis pain 
8. TiCAGRELOR 90 mg PO BID 
9. Aspirin 81 mg PO DAILY 
10. Levothyroxine Sodium 137 mcg PO DAILY 
11. Colchicine 0.6 mg PO DAILY 

 
Discharge Medications:
1.  ___ Calcium 20 mg PO QPM 
RX ___ 20 mg 1 (One) tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
2.  Allopurinol ___ mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Colchicine 0.6 mg PO DAILY  
5.  diclofenac sodium 1 % topical TID:PRN arthritis pain  
6.  Levothyroxine Sodium 137 mcg PO DAILY  
7.  Lisinopril 5 mg PO DAILY  
8.  Metoprolol Succinate XL 12.5 mg PO DAILY  
9.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN CP  
10.  PredniSONE 60 mg PO ONCE:PRN gout flare   
11.  TiCAGRELOR 90 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Noncardiac Chest Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you while you were admitted to ___ 
___. 

WHY WERE YOU ADMITTED TO THE HOSPITAL?
You were admitted to the hospital so we can rule out a primary 
cardiac problem for your chest pain.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
While you were in the hospital we ran many tests including an 
EKG showing you heart was in a normal rhythm, a blood test that 
demonstrated there was no damage to your heart, and an 
echocardiogram that was not significant for structural 
abnormalities. 

Your liver enzymes were also elevated and it may be related to 
your statin use, so we changed your lipid medication from 
atorvastatin 80mg to ___ 20mg once a day.

Finally, we started you on colchicine that was prescribed as an 
outpatient for your gout.

WHAT SHOULD YOU DO WHEN YOU GO HOME?
-Carefully review the attached medication list as we may have 
made changes to your medications.

Sincerely, 

___, MD, PhD

 
Followup Instructions:
___